US09388168B2
Preparation of 1-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-ylamine
N-[1-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-benzamide (150 mg, 0.5 mmol) was dissolved in methanol (2 ml), and water (1 ml) was added in one portion. The mixture was stirred at room temperature for 30 minutes. NaOH (120 mg, 3 mmol) was added. The mixture was stirred at reflux for 18 h. UPLC indicated the conversion was ˜20%, so the mixture was agitated for another 20 h. The conversation was still ˜40%. Another portion of NaOH (120 mg, 3 mmol) was added into the mixture. The mixture was agitated at reflux for another 20 h. The conversation was ˜70%. No further workup.

reactant | N-[1-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-benzamide | 0.5 mmol, 150 mg | CC1(OC[C@H](O1)CN1N=C(C=C1)NC(C1=CC=CC=C1)=O)C | C16H19N3O3
reactant | water | 1 ml | O | H2O
reactant | NaOH | 3 mmol, 120 mg | [OH-].[Na+]
reactant | NaOH | 3 mmol, 120 mg | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 1-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-ylamine | CC1(OC[C@H](O1)CN1N=C(C=C1)N)C | C9H15N3O2
